Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Occluded suprapubic catheter, urinary tract infection
 
Major Surgical or Invasive Procedure:
Exchange of suprapubic catheter 

 
History of Present Illness:
___ with rectal cancer, stage IV with extensive pelvic nodal 
involvement, receiving palliative CAPOX, s/p palliative 
resection of his lower rectum and anus with diverting colostomy 
and suprapubic tube for urethral injury who presented to ___ 
with urinary retention since last night. The patient reports 
that no urine has come through catheter since yesterday evening. 
Suprapubic tube was just replaced on ___. Pt also having 
decreased ostomy output since this AM. Normally empties ___ per 
day. He also has significant abdominal discomfort.  
- In the ED, initial VS were 9 98.6 117 149/69 99% RA.  
- Exam was notable for purulent discharge surrounding SP tube, 
extreme discomfort & abdominal tenderness.  
- Labs were notable for lactate 2.6, cr 0.6, na 131, k 4.6, wbc 
10.3, hct 40, plt 202, UA was grossly +ve.  
- Imaging was notable for AXR which showed a non obstructive 
bowel gas pattern.  
- Consulted services included urology who recommended no need 
for further studies if Cr, lytes WNL. At 21:00, ED flushed 
foley, removed and manually drained bladder. Replaced with new 
___ foley. Urine with purulent material draininage. Pt's pain 
was much improved  
with this.  
- Patient was given IV ceftriaxone.  
- Patient was admitted to OMED for management of complicated 
UTI.  
- VS prior to ED transfer were 2 98.1 72 120/65 20 100% RA.  
On presentation to floor, patient was pain free, after having 
catheter excahnged. no anusea, said emptied colostomy bag prior 
to coming to ED. No fevers, chills, nausea or vomitting.
 
Past Medical History:
Past medical history: hyperlipidemia, cataracts, lymphadenopathy 
(supraclavicular, mediastinal, RP, pelvic sidewall, iliac, 
cervical)

Past oncologic history:
Presumed rectal cancer stage IV
- ___ Began having anal irritation and pain with blood
streaked stools and changing bowel habits. 
- ___ Presented to his PCP, who found inguinal adenopathy. 
- ___ Evaluated in the Hematologic Malignancies Clinic by
Dr. ___. 
- ___ PET CT showed, "Widespread FDG-avid cervical,
supraclavicular, mediastinal, retroperitoneal, pelvic sidewall,
iliac, and inguinal lymphadenopathy, consistent with lymphoma."
- ___iopsy revealed adenocarcinoma
consistent with a colorectal or appendiceal origin, positive for
CK7, CK20 and CDX-2.

PSH: cataract surgery, excision of right groin node ___, 
Dr ___
 
Social History:
___
Family History:
Mother, healthy.
Father, treated for colon cancer in the past.
No other malignancies in the family which he is aware. 
 
Physical Exam:
EXAM ON ADMISSION
General: NAD  
VITAL SIGNS: 98 132/70 85 18 98 ra  
HEENT: MMM, no OP lesions, no cervical, supraclavicular, or  
axillary adenopathy, no thyromegaly  
CV: RR, NL S1S2 no S3S4 MRG  
PULM: CTAB  
ABD: BS+, soft, NTND, no masses or hepatosplenomegaly, colostomy 
bag in palce with minimal formed brown stool, suprapubic 
catheter in place, purulent material noted around site of entry  

LIMBS: No edema, clubbing, tremors, or asterixis; no inguinal 
adenopathy  
SKIN: No rashes or skin breakdown  
NEURO: Cranial nerves II-XII are within normal limits excluding  

visual acuity which was not assessed, no nystagmus; strength is  

___ of the proximal and distal upper and lower extremities  

EXAM ON DISCHARGE

 
Pertinent Results:
ADMISSION LABS
___ 09:20PM BLOOD WBC-10.3# RBC-4.14* Hgb-13.3* Hct-40.0 
MCV-97 MCH-32.3* MCHC-33.4 RDW-20.1* Plt ___
___ 09:20PM BLOOD Neuts-86.4* Lymphs-6.7* Monos-6.4 Eos-0.3 
Baso-0.1
___ 09:20PM BLOOD Glucose-136* UreaN-16 Creat-0.6 Na-131* 
K-7.0* Cl-97 HCO3-25 AnGap-16
___ 09:00PM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:00PM URINE Blood-MOD Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-LG
___ 09:00PM URINE RBC-117* WBC-132* Bacteri-MOD Yeast-NONE 
Epi-0

INTERVAL STUDIES
___ KUB
Nonobstructive bowel gas pattern

DISCHARGE LABS
 
Brief Hospital Course:
___ is a ___ year old man with stage IV rectal cancer with 
extensive pelvic nodal involvement, who is receiving palliative 
CAPOX, admitted to ___ with UTI.  

# Complicated UTI: patient presented with blocked suprapubic 
catheter, which was exchanged and is now draining well. His pain 
is better but found to have grossly positive UA consistent with 
UTI. He was never febrile. No prior culture data at ___. 
Creatinine stable at 0.5-0.6 range. Started on CTX, pending 
culture data for tailored antibiotics. Urine culture was 
polymicrobial, so he was switched to cefpodoxime to complete 10 
days on discharge. 

# Rectal Cancer: Patient stable on regimen of CAPOX. Currently 
C6D8  
- touch base with Dr. ___, as ___ need to continue 
capecitabine 1500 mg PO Q12H until C6D14 (ordered by oncology 
attending).
  
# CAD: stable - continued home ASA 81 mg.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Capecitabine 1500 mg PO Q12 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 9 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*36 Tablet Refills:*0
4. Capecitabine 1500 mg PO Q12 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: occluded suprapubic catheter, UTI
Secondary diagnoses: stage IV rectal cancer, hyperlipidemia,  
cataracts, lymphadenopathy (supraclavicular, mediastinal, RP, 
pelvic sidewall, iliac, cervical); pelvic lymphadenopathy 
causing lower extremity swelling  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for a clogged suprapubic 
catheter and a urinary tract infection. Your catheter was 
exchanged and you were treated for your urinary tract infection 
with IV antibiotics while in house. Lab data returned and showed 
which antibiotics your infection is susceptible to. We switched 
you to oral antibiotics to complete at home. 

We wish you a very speedy recovery! It was a pleasure caring for 
you.
- Your team at ___
 
Followup Instructions:
___